US09226922B2
In a manner similar to that previously described (e.g. synthesis of Intermediate 59B/Step 2), 2-((6-chloro-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)oxy)ethanol was reacted with 2,2-difluoro-2-(fluorosulfonyl)acetic acid (copper(I) iodide, acetonitrile, 80° C. 30 min) to provide 6-chloro-3-(2-(difluoromethoxy)ethoxy)-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridine 59% yield) as a white crystalline solid. MS: [M+H]+ m/z 520.

reactant | 2-((6-chloro-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)oxy)ethanol | ClC1=CC2=C(C(=N1)C)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OCCO | C28H24ClN3O2
reactant | 2,2-difluoro-2-(fluorosulfonyl)acetic acid | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
product | 6-chloro-3-(2-(difluoromethoxy)ethoxy)-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridine | 59% yield | ClC1=CC2=C(C(=N1)C)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OCCOC(F)F | C29H24ClF2N3O2
